US03983124
Following essentially the same procedure but substituting an equivalent molar amount of 2,7-bis(piperidinocarbonyl)fluoren-9-one and N,N,N',N'-tetraallyl-9-oxo-fluorene-2,7-dicarboxamide for the N,N,N',N'-tetraethyl-9-oxofluorene-2,7-dicarboxamide above, results in the formation of 2,7-bis(piperidinomethyl)fluoren-9-ol, having a m.p. of 152.5°-3.5°C,λmax0.1N HCl 231, and E 1cm1% 688, and 2,7-bis(diallylaminomethyl)fluoren-9-ol hydrochloride, respectively, having a m.p. 220.5°-1.5°C, λmax0.1N HCl 282, and E cm1% 531.

reactant | 2,7-bis(piperidinocarbonyl)fluoren-9-one | N1(CCCCC1)C(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(=O)N1CCCCC1)=O | C25H26N2O3
reactant | N,N,N',N'-tetraallyl-9-oxo-fluorene-2,7-dicarboxamide | C(C=C)N(C(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(=O)N(CC=C)CC=C)=O)CC=C | C27H26N2O3
reactant | N,N,N',N'-tetraethyl-9-oxofluorene-2,7-dicarboxamide | C(C)N(C(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(=O)N(CC)CC)=O)CC | C23H26N2O3
product | 2,7-bis(piperidinomethyl)fluoren-9-ol | N1(CCCCC1)CC1=CC=2C(C3=CC(=CC=C3C2C=C1)CN1CCCCC1)O | C25H32N2O
